US05011947
5,5-bis(4-fluorophenyl)-4-(1-methylethyl)-2,4-pentadienal
Lithium diisopropylamide (9 mL of 1.8M solution, 15 mmol) was added to N-ethylidenecyclohexanamine (7.5 mL of 2M solution, 15 mmol) in tetrahydrofuran at -40° C. After stirring for 30 minutes and cooling to -70° C., 3,3-bis(4-fluorophenyl)-2-(1-methylethyl)propenal (1.43 g, 5.0 mmol) was added. The reaction was stirred -70° for 1.5 hrs. and quenched with 2N hydrochloric acid. The mixture was extracted with diethyl ether and the extracts concentrated in vacuo. The residue was stirred for 64 hours with a mixture of 50 mL of benzene, 35 mL acetic acid and 15 mL of water. The layers were separated and the aqueous layer extracted with diethyl ether. The combined organic solution was washed with saturated sodium bicarbonate solution, water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with 1% ethyl acetate in hexane and the material obtained crystallized from hexane to give 0.55 g of the title compound as a yellow solid; m.p. =105°-107° C.

reactant | Lithium diisopropylamide | 15 mmol, 1.8M, 9 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-ethylidenecyclohexanamine | 15 mmol, 2M, 7.5 mL | C(C)=NC1CCCCC1 | C8H15N
reactant | 3,3-bis(4-fluorophenyl)-2-(1-methylethyl)propenal | 5.0 mmol, 1.43 g | FC1=CC=C(C=C1)C(=C(C=O)C(C)C)C1=CC=C(C=C1)F | C18H16F2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5,5-bis(4-fluorophenyl)-4-(1-methylethyl)-2,4-pentadienal | 0.55 g | FC1=CC=C(C=C1)C(=C(C=CC=O)C(C)C)C1=CC=C(C=C1)F | C20H18F2O
